US06372770B1
2-(3-Cyclopentyloxy-4-methoxybenzyl)-5-chlorobenzoxazole-7-acetic Acid
A solution of 2-(3-cyclopentyloxy-4-methoxybenzyl)-5-chlorobenzoxazole-7-ethanal (2.0 g, 0.005 mol) in 50 ml of acetone was treated with 20 ml of 1 N Jones reagent and stirred for 1 hour at room temperature. Excess Jones reagent was destroyed by the addition of 50 ml of 2-propanol and the low boiling solvents were stripped under reduced pressure. Water (50 ml) and saturated sodium chloride (50 ml) were added and the aqueous residue was extracted with 2×75 ml of ethyl acetate. After drying, the ethyl acetate was evaporated to give 2.1 g of a brown foam. Solution of this material in CH2Cl2 and flash chromatography on silica gel afforded 0.72 g of the title acid as a yellow foam after elution with 500 ml of 0.5% CH3OH in CH2Cl2. The foam was dissolved in 3 ml of CH3OH and allowed to crystallize for 1 hour at freezer temperatures. After filtration, a total of 0.27 g of yellow title compound, mp 131-133° C., was isolated.

reactant | 2-(3-cyclopentyloxy-4-methoxybenzyl)-5-chlorobenzoxazole-7-ethanal | 0.005 mol, 2.0 g | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=C(C=C3CC=O)Cl)C=CC1OC | C22H22ClNO4
reactant | Jones reagent | 1 N, 20 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(3-Cyclopentyloxy-4-methoxybenzyl)-5-chlorobenzoxazole-7-acetic Acid | 2.1 g | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=C(C=C3CC(=O)O)Cl)C=CC1OC | C22H22ClNO5
